US08895745B2
a) Imidazo[1,2-a]pyridin-7-yl-methanol
To a solution of (2-amino-pyridin-4-yl)-methanol (0.40 g, 3.3 mmol) in EtOH was added NaHCO3 (0.56 g, 6.67 mmol) followed by chloroacetaldehyde (0.81 ml, 5.0 mmol). The mixture was refluxed for 2 h. Solvents were removed in vacuo and the crude mixture was partitioned between water and EtOAc. The aqueous was further extracted with EtOAc, the organics combined, dried (MgSO4) and the solvent removed in vacuo. The residue was purified using silica column chromatography (0-50% MeOH/Et2O) to afford 0.40 g of product MS: [M+H]+=149.

reactant | (2-amino-pyridin-4-yl)-methanol | 3.3 mmol, 0.40 g | NC1=NC=CC(=C1)CO | C6H8N2O
reactant | NaHCO3 | 6.67 mmol, 0.56 g | C(=O)(O)[O-].[Na+]
reactant | chloroacetaldehyde | 5.0 mmol, 0.81 ml | ClCC=O | C2H3ClO
solvent | EtOH | CCO | C2H6O
product | Imidazo[1,2-a]pyridin-7-yl-methanol | 0.40 g | N=1C=CN2C1C=C(C=C2)CO | C8H8N2O
